US07144883B2
4-Methyl-N-(7-piperazin-1-yl-benzofuran-5-yl)-benzenesulfonamide, hydrochloride
4-(5-Amino-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester (44 mg, 0.139 mmol) in 3 ml dichloromethane was added to a tube containing p-toluenesulfonyl chloride (32 mg, 0.167 mmol) together with pyridine (100 μl, 1.25 mmol) and left on a shaker over weekend. After purification by preparative HPLC, the resulting Boc-material was treated with HCl in ether and left on a shaker until the salt had formed. The solution was centrifugated and the supernatant was removed. Ether was added, then centrifugated and decanted (repeated three times) to remove the excess HCl. The remaining ether was finally evaporated in a SpeedVAc concentrator to yield 10 mg of title product. HPLC purity=94%, m/z=372.3 (M+H). 1H NMR (270 MHz, methanol-d4) δ ppm 2.35 (s, 3 H) 3.45 (m, 8 H) 6.63 (d, J=1.85 Hz, 1 H) 6.71 (d, J=2.11 Hz, 1 H) 6.88 (d, J=1.85 Hz, 1 H) 7.25 (m, 2 H) 7.58 (m, 2 H) 7.71 (d, J=2.11 Hz, 1 H).

reactant | 4-(5-Amino-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.139 mmol, 44 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=2C=COC21)N | C17H23N3O3
reactant | p-toluenesulfonyl chloride | 0.167 mmol, 32 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 1.25 mmol, 100 μl | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-Methyl-N-(7-piperazin-1-yl-benzofuran-5-yl)-benzenesulfonamide, hydrochloride | 10 mg | Cl.CC1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C2=C(C=CO2)C1)N1CCNCC1 | InChI=1S/C19H21N3O3S.ClH/c1-14-2-4-17(5-3-14)26(23,24)21-16-12-15-6-11-25-19(15)18(13-16)22-9-7-20-8-10-22;/h2-6,11-13,20-21H,7-10H2,1H3;1H
